US09278951B2
Synthesis of 1,3-bis(anthracen-2-ylmethyl)-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (0.18 g, 1.33 mmol) and potassium hydroxide (0.08 g, 1.46 mmol) will be dissolved in a minimum volume of acetonitrile and stirred at reflux for 30 min. 2-(Bromomethyl)anthracene (2.71 g, 10.0 mmol) will be added and the mixture will be returned to reflux for 3 h. The mixture will be filtered hot to remove the KBr generated. A second equivalent of 2-(bromomethyl)anthracene will be added to the filtrate and the mixture will be returned to reflux for 6 h. The volatile components will be removed under reduced pressure to yield the product.

reactant | 4,5-Dichloroimidazole | 1.33 mmol, 0.18 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | potassium hydroxide | 1.46 mmol, 0.08 g | [OH-].[K+]
reactant | 2-(Bromomethyl)anthracene | 10.0 mmol, 2.71 g | BrCC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C15H11Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,3-bis(anthracen-2-ylmethyl)-4,5-dichloroimidazolium bromide | [Br-].C1=C(C=CC2=CC3=CC=CC=C3C=C12)C[N+]1=CN(C(=C1Cl)Cl)CC1=CC2=CC3=CC=CC=C3C=C2C=C1 | InChI=1S/C33H23Cl2N2.BrH/c34-32-33(35)37(20-23-10-12-29-16-25-6-2-4-8-27(25)18-31(29)14-23)21-36(32)19-22-9-11-28-15-24-5-1-3-7-26(24)17-30(28)13-22;/h1-18,21H,19-20H2;1H/q+1;/p-1
